US05075445
A solution of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.25 g, 0.8 mmol) in isopropanol (2.5 ml) containing sodium isopropoxide 0.5 M) was stirred at 60° for 25 minutes. After cooling, hydrochloric acid (5 M, 0.3 ml) and water (0.7 ml) were added and the solution was stirred for 15 minutes at room temperature. The solution was neutralised by addition of aqueous sodium bicarbonate and the solvent was removed. The residue was extracted with chloroform-ethanol (2:1) and the solution purified by column chromatography on silica gel eluting with chloroform-methanol (7:1) to afford 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-isopropoxypurine which was crystallised from chloroformcarbon tetrachloride (0.18 g, 76%), m.p. 111.5°-113.5° C.; δH [(CD3)2SO] 1.34 (6 H, d, J 6.3 Hz, C(CH3)2), 1.45 (1H, m, 3' -H), 1.74 (2 H, q, J 7.2 Hz, 2'-H), 3.3-3.5 (4 H, AB part of ABX, 2×4'-H), 4.06 (2 H, t, J 7.3 Hz, 1'-H), 4.40 (2 H, br, 2×OH), 5.49 (1 H, septet, J 6.3 Hz, CH(CH3)2), 6.27 (2 H, s, 2-NH2), and 7.83 (1 H, s, 8 -H).

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 0.8 mmol, 0.25 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | sodium isopropoxide | 0.5 M | CC([O-])C.[Na+]
reactant | hydrochloric acid | 5 M, 0.3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropanol | 2.5 ml | C(C)(C)O | C3H8O
solvent | water | 0.7 ml | O | H2O
product | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)-6-isopropoxypurine | NC1=NC(=C2N=CN(C2=N1)CCC(CO)CO)OC(C)C | C13H21N5O3
